Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cough, fevers, weight loss
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man originally from ___ with h/o significant 
tobacco use ___ pack-years), referred by PCP due to concern 
for pneumonia. History was obtained from the patient via 
___ phone interpreter. 

Patient felt well until ___ days ago when he developed low-grade 
fevers (100), malaise, and dry cough. No dyspnea, chest pain, 
sputum, or hemoptysis. No chills or rigors. Of note, patient has 
had chronic night sweats and 15-pound unintentional weight loss 
over past ___ months. No known TB+ contacts. TB risk factors 
include ___ origin (last travel to ___ in ___, 
previous employment as a ___. No HIV risk factors. 
No family history of malignancy. No lymphadenopathy, headache, 
dysphagia, chest pain, abdominal pain, constipation, melena, 
hematochezia, dysuria, or back pain. 

Outpatient labs showed a leukocytosis to 14 and CRP>200 and 
patient was started on azithromycin for presumed pneumonia. 
However, his symptoms did not improve so his PCP referred him to 
the ED.

In the ED, patient was afebrile, hemodynamically stable, and 
well appearing with no exam findings. Labs were unremarkable 
aside from persistent mild leukocytosis. Flu swab was negative. 
He underwent CT chest w/contrast which showed RLL consolidation 
consistent with pneumonia, as well as mediastinal and hilar 
lymphadenopathy. He was started on ceftriaxone/azithromycin as 
well as metronidazole (for possible post-obstructive pneumonia) 
and admitted for further evaluation for TB vs. malignancy.

On the floor, patient reports he feels the same as when he 
arrived - still fatigued and with intermittent dry cough. He 
reports cough has actually worsened somewhat since getting 
antibiotics.

 
Past Medical History:
Tobacco use
 
Social History:
___
Family History:
Parents both died in their late ___ of unknown causes ("old 
age"). He believes his mother had lung problems but does not 
known the diagnosis. He has no siblings. His son is healthy. He 
denies any history of cancer, heart disease, HTN, or DM. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS:  reviewed, all normal
GENERAL: Thin middle aged man in NAD.
HEENT: +Temporal wasting. No icterus or injection. OP moist and 
clear.
NECK: supple, no LAD
HEART: RRR, no murmurs
LUNGS: Normal work of breathing. Decreased breath sounds and 
crackles at right base. Other lung fields clear. No wheezing.
ABDOMEN: Soft, NDNT, no palpable HSM or masses.
EXTREMITIES: +Clubbing. No cyanosis, edema, or erythema.
NEURO: Alert, oriented, attentive. CN intact. Normal strength 
and coordination.
SKIN: No rashes or lesions.

DISCHARGE PHYSICAL EXAM:
========================
VS: 98.3 122 / 83 69 18 100 Ra    
GENERAL: Thin male, sleeping comfortably in bed. NAD.
HEENT: +Temporal wasting. No icterus or injection. MMM
NECK: supple
HEART: RRR, no murmurs
LUNGS: Normal work of breathing. CTAB. No wheezing or rhonchi.
ABDOMEN: Soft, NDNT, no palpable HSM or masses.
EXTREMITIES: No cyanosis, edema, or erythema.
NEURO: Alert, oriented, attentive. CNs grossly intact. Moving 
all
extremities symmetrically and with purpose.
SKIN: No rashes or lesions.
 
Pertinent Results:
ADMISSION LABS:
=================
___ 11:01AM BLOOD WBC-14.4* RBC-3.54* Hgb-10.1* Hct-32.6* 
MCV-92 MCH-28.5 MCHC-31.0* RDW-13.0 RDWSD-43.8 Plt ___
___ 06:49PM BLOOD Neuts-83.3* Lymphs-11.4* Monos-4.3* 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-11.10* AbsLymp-1.51 
AbsMono-0.57 AbsEos-0.02* AbsBaso-0.04
___ 06:49PM BLOOD ___ PTT-33.0 ___
___ 06:49PM BLOOD Glucose-132* UreaN-14 Creat-0.7 Na-140 
K-3.7 Cl-98 HCO3-27 AnGap-15
___ 11:01AM BLOOD ALT-28 AlkPhos-229*
___ 07:53AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.2
___ 08:30AM BLOOD calTIBC-230* Ferritn-548* TRF-177*
___ 11:01AM BLOOD %HbA1c-5.7 eAG-117
___ 11:01AM BLOOD TSH-1.1
___ 11:01AM BLOOD Free T4-1.2
___ 11:01AM BLOOD CRP-134.0*
___ 06:45AM BLOOD HIV Ab-NEG
___ 06:54PM BLOOD Lactate-1.1

DISCHARGE LABS:
=================
___ 04:22AM BLOOD WBC-8.4 RBC-3.49* Hgb-10.0* Hct-31.1* 
MCV-89 MCH-28.7 MCHC-32.2 RDW-12.9 RDWSD-42.0 Plt ___
___ 04:22AM BLOOD Glucose-95 UreaN-16 Creat-0.7 Na-142 
K-4.9 Cl-101 HCO3-25 AnGap-16
___ 04:22AM BLOOD Calcium-9.9 Phos-4.4 Mg-2.5

MICRO:
========
___ 12:42 pm SPUTUM     Site: INDUCED      Source: Induced. 


   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Pending): 

___ 4:16 am SPUTUM      Source: Induced. 

   GRAM STAIN (Final ___: 
      ___ PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid . 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

___ 6:30 pm SPUTUM      Source: Induced. 

   GRAM STAIN (Final ___: 
      <10 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH     
                                    OROPHARYNGEAL FLORA. 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 

   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   MTB Direct Amplification (Final ___: 
      M. TUBERCULOSIS DNA NOT DETECTED BY NAAT: A negative NAAT 
cannot rule
      out TB  or other mycobacterial infection. 
      . 
      NAAT results will be followed by confirmatory testing with
      conventional culture and DST methods. This TB NAAT method 
has not
      been approved by FDA for clinical diagnostic purposes. 
However, ___
      ___ (___) has established assay 
performance by
      in-house validation in accordance with CLIA standards. 

___ 10:35 am SPUTUM      Source: Induced. 

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions.. 
      Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

IMAGING:
=========
CXR ___:
IMPRESSION:  
Right lower lobe consolidation compatible with pneumonia.  
Followup after 
treatment suggested to document resolution. 

CT Chest ___:
IMPRESSION: 
1. Consolidation in the right lower lobe consistent with 
pneumonia. 
2. Prominent mediastinal and hilar lymph nodes are likely 
reactive. 
3. Left thyroid nodule for which nonurgent thyroid ultrasound is 
suggested. 
  
RECOMMENDATION(S):  Follow up chest imaging will be necessary to 
document 
resolution and can be done by plain film. Nonurgent thyroid 
ultrasound is suggested. 

CT abd/pelvis ___:
IMPRESSION: 
1. 2.4 cm segment 2 hypoenhancing hepatic lesion with 
discontinuous peripheral areas of enhancement, likely 
representing a hemangioma.  Multiphasic CT of the liver or MRI 
of the liver would aide in further characterization. 
2. Otherwise, no suspicious lesions within the abdomen or pelvis 
were noted. 

 
Brief Hospital Course:
Mr. ___ is a ___ ___ only male with 35-pack-year 
smoking history who presented with low grade fevers, 
unintentional weight loss, and cough and found to have RLL 
pneumonia c/f CAP with additional concern for TB admitted for TB 
rule-out.

#) COMMUNITY-ACQUIRED PNEUMONIA:
Patient presented with cough and found to have leukocytosis and 
RLL consolidation on CT chest, concerning for community-acquired 
pneumonia. CT chest also notable for mediastinal and hilar LAD 
likely reactive, however, concern for TB vs. malignancy given 
recent weight loss, night sweats, and intermittent fevers. The 
patient was initiated on CTX/Azithro and admitted for TB 
rule-out. His respiratory symptoms improved and he completed a 5 
day course of antibiotics on ___. His induced sputum acid fast 
gram stains were negative x3. Cultures were pending at time of 
discharge. Given clinical improvement and negative sputum gram 
stains, the patient was discharged home with plans for continued 
follow-up with his PCP for further ___ of his unintentional 
weight loss. 

#) UNINTENTIONAL WEIGHT LOSS
Patient presenting with unintentional of unclear etiology with 
concern for underlying malignancy versus TB. HIV reassuringly 
negative. No other localizing symptoms on examination. Induced 
sputum specimens negative for acid fast bacilli on gram stain x3 
with cultures pending at time of discharge. CT chest notable for 
mediastainal/hilar LAD in the setting of pneumonia but no overt 
mass. CT abdomen/pelvis notable for likely hepatic hemangioma 
but otherwise unremarkable. Patient will need close follow-up 
with his PCP for ongoing ___ of his weight loss including a 
colonoscopy and endoscopy. GI department contacted and will help 
arrange for more expedited EGD/colonoscopy.

# ANEMIA
Found to have normocytic, hypoproliferative anemia. Iron studies 
consistent with anemia of chronic disease. Does not have any 
significant medical history that indicates why he has an 
inflammatory state. Planned for colonoscopy as an out-patient.

#EMPHYSEMA:
Noted on CT chest. Patient had no evidence to suggest acute 
exacerbation. Consider PFTs as an out-patient.

TRANSITIONAL ISSUES:
====================
NEW MEDICATIONS:
-Guaifenesin-Dextromethorphan 5mL q4h prn cough

CHANGED MEDICATIONS:
-None

STOPPED MEDICATIONS:
-None

Other:
========
-Gram stains negative for acid fast bacilli x3 but cultures 
pending at time of discharge
-Will need to contact the patient's wife with ___ 
interpreter once TB cultures result as the patient will be in 
___. His wife's phone number is ___
-Patient will need colonoscopy and endoscopy for further ___ 
of his weight loss. We are working with the ___ department to 
have this scheduled urgently prior to his trip to ___ on 
___. The GI department states they will call the wife to 
coordinate a time for the procedure
-Left thyroid nodule was noted on CT chest for which non-urgent 
thyroid ultrasound is suggested
-Needs further outpatient workup of normocytic 
hypopfroliferative anemia. Iron studies c/w anemia of chronic 
disease.
-Patient noted to have thrombocytosis in the setting of 
pneumonia. Recommend repeating labs as an out-patient and 
considering further ___ if persistently elevated
-Consider outpatient PFTs given mild emphysema seen on CT scan
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Guaifenesin-Dextromethorphan 5 mL PO Q4H:PRN cough 
RX *dextromethorphan-guaifenesin 100 mg-10 mg/5 mL 5 mL by mouth 
every six (6) hours Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
==========
Community Acquired Pneumonia
Unintentional Weight Loss

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay at ___ 
___.

WHY YOU WERE ADMITTED?
-You were admitted for the cough you were experiencing
-The CT scan of your chest showed that you had pneumonia
-There was also concern that you may have tuberculosis given 
your recent weight loss, night sweats and fevers

WHAT WAS DONE FOR YOU WHILE YOU WERE HERE?
-You were treated with a 5 day course of antibiotics for your 
pneumonia
-Your sputum was examined for signs of tuberculosis and your 
initial results returned negative. Your final cultures will take 
6 weeks to return. Fortunately, you are not infectious at this 
time and we will call you and your wife with the final results.
-You had a CT scan of your abdomen that showed a lesion in the 
liver that is likely a hemangioma (benign abnormal collection of 
blood vessels). There was otherwise no evidence of a mass.
-You will need close follow-up with your primary care physician 
for ongoing ___ of your weight loss and fevers.

WHAT TO DO WHEN YOU LEAVE THE HOSPITAL?
-Please follow-up with your primary care physician for ongoing 
___ of your weight loss. You will need to see her PRIOR to 
going to ___
-Please follow-up for your endoscopy and colonoscopy with the 
gastrointestinal department. It is important to have this 
procedure within the next month as we are concerned that you 
could get sicker and these studies will provide important 
information if there is an underlying cancer in your 
gastrointestinal system. 
-Please take all of your medications as prescribed
-Please seek medical attention if you develop fevers, chills, 
nausea, vomiting, chest pain, shortness of breath or any other 
symptoms that concern you

We wish you all the best!
Your ___ Team
 
Followup Instructions:
___